US08124782B2
A reaction vessel is laden with methylamine as a 40% aqueous solution (117 kg, 1507 mol of methylamine). Water (97.5 kg) is added and the solution is cooled to −5° C. A solution of the crude 4-chloropyridine-2-carbonyl chloride hydrochloride (approx. 330 kg, including toluene, obtained from 60 kg of 2-picolinic acid by the process detailed in stage 1/method 1a) in toluene is added to such a degree that the temperature of the reaction mixture does not exceed 30° C. After stirring further at 20° C. for 1 h, the insoluble constituents are filtered out of the reaction mixture. After the phases have been separated, the organic phase is washed with water (90 kg). For better phase separation, 5 kg of sodium chloride are added. The majority of the toluene is distilled out of the organic phase under reduced pressure (final vacuum 40 mbar at jacket temperature 95° C.). The crude 4-chloro-N-methylpyridine-2-carboxamide is thus obtained as an orange- to dark brown-colored oil and is used in the next stage without further purification.

reactant | methylamine | CN | CH5N
reactant | Water | 97.5 kg | O | H2O
reactant | 4-chloropyridine-2-carbonyl chloride hydrochloride | Cl.ClC1=CC(=NC=C1)C(=O)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-picolinic acid | 60 kg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
